US07795267B2
N-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]glycine
Ethyl N-[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]glycine (1.5 g, 3.6 mmol) was dissolved in ethanol (10 mL) and tetrahydrofuran (2 mL). With ice cooling, a 4 M aqueous sodium hydroxide solution (1.0 mL, 4.0 mmol) was added thereto, and the mixture was stirred at 0° C. for 3 hours. The reaction solution was concentrated under reduced pressure, and diethyl ether and water were added to the residue. The aqueous layer was neutralized with 4 M hydrochloric acid, which was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and hexane was added to the residue. The resulting mixture was powdered and dried to obtain the title compound (1.2 g, yield 84%).

reactant | Ethyl N-[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]glycine | 3.6 mmol, 1.5 g | C(C)N(CC(=O)O)C(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C23H25N3O5
reactant | sodium hydroxide | 4.0 mmol, 4 M, 1.0 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]glycine | 1.2 g, yield 84% | O=C1OC(C2N1CCN(C2)C(=O)NCC(=O)O)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H21N3O5
